US05346917
A solution of 1.40 g (3.94 mmol) of 4-(aminomethyl) -1-[[2-(diethylamino)ethyl]amino]-thioxanthen-9-one (prepared by the method described in Example 4) in 30 mL of chloroform containing 1.5 mL of triethylamine was cooled to 0° C. and treated with p-methoxybenzenesulfonyl chloride (0.83 g, 4.02 mmol). After 10 min at 0° C. the reaction mixture was stirred at room temperature for 2 h. Chloroform was removed in vacuo, the residue dissolved in 100 mL of methylene chloride containing 1 mL of triethylamine and treated with additional p-methoxybenzenesulfonyl chloride (0.85 g) with stirring at room temperature. The mixture was concentrated in vacuo, the residue was purified by passing through a pad of silica gel (1% triethylamine/chloroform) affording 1.57 g of N-[[1-[[2-(diethylamino)ethyl]amino]-9-oxothioxanthen-4-yl]methyl]-p-methoxy-benzenesulfonamide. The sulfonamide was treated with methanesulfonic acid (0.3 g) in isopropanol/isopropyl acetate/methanol to afford 1.07 g of the methanesulfonate salt, m.p. 133°-137° C.

reactant | 4-(aminomethyl) -1-[[2-(diethylamino)ethyl]amino]-thioxanthen-9-one | 3.94 mmol, 1.40 g | NCC1=CC=C(C=2C(C3=CC=CC=C3SC12)=O)NCCN(CC)CC | C20H25N3OS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | p-methoxybenzenesulfonyl chloride | 4.02 mmol, 0.83 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[[1-[[2-(diethylamino)ethyl]amino]-9-oxothioxanthen-4-yl]methyl]-p-methoxy-benzenesulfonamide | 1.57 g | C(C)N(CCNC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)CNS(=O)(=O)C1=CC=C(C=C1)OC)CC | C27H31N3O4S2
